US05183492
0.6 g of sodium is dissolved completely in 50 ml of ethyl α-hydroxyisobutyrate. This solution is combined with the crude ethyl 2-{2-chloro-4-fluoro-5-[3-(ethoxycarbonyl)amino-pent-3-enoyl]amino-benzoyloxy}-2-methylpropionate and stirred at 120° C. for 4 hours. After cooling,this reaction mixture is introduced into 100 ml of 1N hydrochloric acid at 0° C. The mixture is extracted twice with 150 ml of ethyl acetate each time, back-washed twice with 200 ml of water each time, dried over anhydrous magnesium sulphate and concentrated under reduced pressure. The residue is purified by chromatography on silica gel with ethyl acetate/n-hexane (3:2). There is obtained ethyl 2-{2-chloro-4-fluoro-5-[3,6-dihydro-2,6-dioxo-4-ethyl-1(2H)-pyrimidinyl]-benzoyloxy}-2-methylpropionate which is recrystallized from diethyl ether/n-hexane; m.p. 166°-167° C.

reactant | sodium | 0.6 g | [Na] | Na
reactant | ethyl 2-{2-chloro-4-fluoro-5-[3-(ethoxycarbonyl)amino-pent-3-enoyl]amino-benzoyloxy}-2-methylpropionate | ClC1=C(C(=O)OC(C(=O)OCC)(C)C)C=C(C(=C1)F)NC(CC(=CC)NC(=O)OCC)=O | C21H26ClFN2O7
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | ethyl α-hydroxyisobutyrate | 50 ml | OC(C(=O)OCC)(C)C | C6H12O3
product | ethyl 2-{2-chloro-4-fluoro-5-[3,6-dihydro-2,6-dioxo-4-ethyl-1(2H)-pyrimidinyl]-benzoyloxy}-2-methylpropionate | ClC1=C(C(=O)OC(C(=O)OCC)(C)C)C=C(C(=C1)F)N1C(NC(=CC1=O)CC)=O | C19H20ClFN2O6
